US07767675B2
Step 2. tert-butyl[4-(methoxymethyl)tetrahydro-2H-pyran-4-yl]carbamate
To a solution of tert-butyl[4-(hydroxymethyl)tetrahydro-2H-pyran-4-yl]carbamate (0.89 g, 3.8 mmol) in methylene chloride (19.2 mL) was added sequentially powdered MS 4A, N,N,N′,N′-tetramethyl-1,8-naphthalenediamine (2.0 g, 9.6 mmol), and trimethyloxonium tetrafluoroborate (1.1 g, 7.7 mmol) at RT. The mixture was stirred for 5 h., filtered through a pad of Celite, and washed with EtOAc. The filtrate was washed with aqueous CuSO4, water, brine, dried over MgSO4, filtered, and concentrated. The residue was purified by chromatography on silica gel with EtOAc in hexanes (0-30%) to afford the desired product. LCMS: (M+Na)=268.0

reactant | tert-butyl[4-(hydroxymethyl)tetrahydro-2H-pyran-4-yl]carbamate | 3.8 mmol, 0.89 g | C(C)(C)(C)OC(NC1(CCOCC1)CO)=O | C11H21NO4
reactant | N,N,N′,N′-tetramethyl-1,8-naphthalenediamine | 9.6 mmol, 2.0 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | trimethyloxonium tetrafluoroborate | 7.7 mmol, 1.1 g | F[B-](F)(F)F.C[O+](C)C
solvent | methylene chloride | 19.2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl[4-(methoxymethyl)tetrahydro-2H-pyran-4-yl]carbamate | C(C)(C)(C)OC(NC1(CCOCC1)COC)=O | C12H23NO4
